US07501541B2
N-(3,4-Dimethoxy-phenyl)-N′-methyl-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamide
A mixture of 16.2 mg (0.033 mmol) N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid, 15.5 mg (0.049 mmol) methylamine (commercially available), 13.8 mg (0.043 mmol) TBTU and 7.8 mg (0.09 mmol) pyridine in 2 mL DMF was shaken for 4 h at room temperature. The mixture was evaporated to dryness, taken up in methanol, formic acid and subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and acetic acid. The combined product fractions were evaporated to dryness to yield 2.7 mg (16%) of the title compound. MS(m/e): 501.3 (MH+), MH+ found: 501.3.

reactant | N-(3,4-Dimethoxy-phenyl)-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamic acid | 0.033 mmol, 16.2 mg | COC=1C=C(C=CC1OC)N(C(C(C(=O)O)C1=CC=CC=C1)=O)CCC1=CC=C(C=C1)C(F)(F)F | C26H24F3NO5
reactant | methylamine | 0.049 mmol, 15.5 mg | CN | CH5N
reactant | TBTU | 0.043 mmol, 13.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | pyridine | 0.09 mmol, 7.8 mg | N1=CC=CC=C1 | C5H5N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(3,4-Dimethoxy-phenyl)-N′-methyl-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-malonamide | 2.7 mg, 16% | COC=1C=C(C=CC1OC)N(C(C(C(=O)NC)C1=CC=CC=C1)=O)CCC1=CC=C(C=C1)C(F)(F)F | C27H27F3N2O4
